US09023858B2
F) 6-oxo-1-[4-(2,2,2-trifluoroethoxy)phenyl]-2-(3,3,3-trifluoropropyl)-1,6-dihydropyrimidin-4-yl trifluoromethanesulfonate
To a solution of 6-hydroxy-3-[4-(2,2,2-trifluoroethoxy)phenyl]-2-(3,3,3-trifluoropropyl)pyrimidin-4(3H)-one (2.63 g) and triethylamine (1.44 mL) in THF (50 mL) was added 1,1,1-trifluoro-N-phenyl-N-[(trifluoromethyl)sulfonyl]methanesulfonamide (2.46 g) at 0° C., and the mixture was stirred at room temperature overnight. To the reaction mixture was added ice-cooled saturated brine, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (3.21 g) as a solid.

reactant | 6-hydroxy-3-[4-(2,2,2-trifluoroethoxy)phenyl]-2-(3,3,3-trifluoropropyl)pyrimidin-4(3H)-one | 2.63 g | OC1=CC(N(C(=N1)CCC(F)(F)F)C1=CC=C(C=C1)OCC(F)(F)F)=O | C15H12F6N2O3
reactant | triethylamine | 1.44 mL | C(C)N(CC)CC | C6H15N
reactant | 1,1,1-trifluoro-N-phenyl-N-[(trifluoromethyl)sulfonyl]methanesulfonamide | 2.46 g | FC(S(=O)(=O)N(S(=O)(=O)C(F)(F)F)C1=CC=CC=C1)(F)F | C8H5F6NO4S2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
product | 6-oxo-1-[4-(2,2,2-trifluoroethoxy)phenyl]-2-(3,3,3-trifluoropropyl)-1,6-dihydropyrimidin-4-yl trifluoromethanesulfonate | 3.21 g | FC(S(=O)(=O)OC=1N=C(N(C(C1)=O)C1=CC=C(C=C1)OCC(F)(F)F)CCC(F)(F)F)(F)F | C16H11F9N2O5S
